US06897306B2
Preparation 76: (3R)-6-Cyclohexyl-3-(3-{[3-(dimethylamino)-1-azetidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoic Acid
A solution of tert-butyl (3R)-6-cyclohexyl-3-(3-{[3-(dimethylamino)-1-azetidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoate (Preparation 75) (340 mg, 0.76 mmol) in trifluoroacetic acid (10 ml) was stirred at room temperature for 2 hours. The solvent was removed under reduced pressure and the residue azeotroped from dichloromethane. The residue was dissolved in ethyl acetate (50 ml) and washed with saturated aqueous ammonium chloride solution (50 ml) and brine (50 ml), dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure to afford the title compound as a white solid (30 mg). The combined aqueous washes were extracted with dichloromethane, containing <10% methanol, (3×150 ml). The combined organic layers were dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure to afford the title compound as a white solid (180 mg), combined total mass 210 mg.

reactant | tert-butyl (3R)-6-cyclohexyl-3-(3-{[3-(dimethylamino)-1-azetidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoate | 0.76 mmol, 340 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C(=O)N1CC(C1)N(C)C | C24H40N4O4
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (3R)-6-Cyclohexyl-3-(3-{[3-(dimethylamino)-1-azetidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoic Acid | 30 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)N1CC(C1)N(C)C | C20H32N4O4
